US07414063B2
1-Hydroxy-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide sodium chloride
A 1N NaOH solution (5.96 mL) is added slowly to a stirred suspension of 1-hydroxy-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide hydrochloride (1.81 g, 5.96 mmol) in CH3OH (10 mL) at ambient temperature under nitrogen. The resultant mixture is allowed to stir for 30 minutes. The mixture is then concentrated at 50° C. under vacuum to give a 1.87 g of the title compound (96% yield) as a white powder.

reactant | NaOH | 1N, 5.96 mL | [OH-].[Na+]
reactant | 1-hydroxy-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide hydrochloride | 5.96 mmol, 1.81 g | Cl.NCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)O
solvent | CH3OH | 10 mL | CO | CH4O
product | 1-Hydroxy-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide sodium chloride | 1.87 g, 96% yield | [Cl-].[Na+].NCCNS(=O)(=O)C=1C=2C=CN=C(C2C=CC1)O | InChI=1S/C11H13N3O3S.ClH.Na/c12-5-7-14-18(16,17)10-3-1-2-9-8(10)4-6-13-11(9)15;;/h1-4,6,14H,5,7,12H2,(H,13,15);1H;/q;;+1/p-1
